US06777559B2
1-{Benzyl-[2-(2-methoxy-phenoxy)-ethyl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol
3.3 g of 1-(9-Benzenesulfonyl-9H-carbazol-4-yloxy)-3-{benzyl-[2-(2-methoxyphenoxy)-ethyl]-amino}-propan-2-ol (5.2 mmol) were dissolved in 33 ml THF/methanol (2:1). A solution of 1.1 g of sodium hydroxide in 1.7 ml of water was added in one portion. The mixture was stirred for 18 h at 50° C. The mixture was rotary evaporated (35° C./20 mbar). The residue was dissolved in 25 ml of toluene and 20 ml of water. The phases were separated and the toluene phase was washed 3 times with 25 ml of water. The organic phase was rotary evaporated (40° C./15 mbar) and the residue was crystallized with 9 ml ethanol. The product was filtered under suction and washed twice with 3 ml cold ethanol. The substance was dried at 50° C. for 12 h.

reactant | 1-(9-Benzenesulfonyl-9H-carbazol-4-yloxy)-3-{benzyl-[2-(2-methoxyphenoxy)-ethyl]-amino}-propan-2-ol | 5.2 mmol, 3.3 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C(=CC=CC12)OCC(CN(CCOC1=C(C=CC=C1)OC)CC1=CC=CC=C1)O | C37H36N2O6S
reactant | sodium hydroxide | 1.1 g | [OH-].[Na+]
solvent | THF methanol | 33 ml | C1CCOC1.CO
solvent | water | 1.7 ml | O | H2O
product | 1-{Benzyl-[2-(2-methoxy-phenoxy)-ethyl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=2NC3=CC=CC=C3C12)O)CCOC1=C(C=CC=C1)OC | C31H32N2O4
